US04013652
8-cyclopropyl-1,2,7,8,9,10-hexahydropyrido[3',4':4,5]pyrrolo[1,2,3-de][1,4]benzoxazine hydrochloride
4-Amino-3,4-dihydro-2H-1,4-benzoxazine hydrochloride is reacted with 1-cyclopropyl-4-piperidone according to the procedure of Example 110 to yield the title compound, m.p. 232°-233° .

reactant | 4-Amino-3,4-dihydro-2H-1,4-benzoxazine hydrochloride | Cl.NN1CCOC2=C1C=CC=C2
reactant | 1-cyclopropyl-4-piperidone | C1(CC1)N1CCC(CC1)=O | C8H13NO
product | 8-cyclopropyl-1,2,7,8,9,10-hexahydropyrido[3',4':4,5]pyrrolo[1,2,3-de][1,4]benzoxazine hydrochloride | Cl.C1(CC1)N1CC2=C(N3CCOC4=C3C2=CC=C4)CC1 | InChI=1S/C16H18N2O.ClH/c1-2-12-13-10-17(11-4-5-11)7-6-14(13)18-8-9-19-15(3-1)16(12)18;/h1-3,11H,4-10H2;1H
